US07968581B2
Step 1: 3-(2-Hydroxyacetyl)benzonitrile
A solution of 776 mg of 3-(2-bromoacetyl)benzonitrile in acetonitrile (5 mL) and water (10 mL) is treated under microwave irradiation (125° C., 50 min) The same experiment is realized a second time with 976 mg. All the vials are collected, extracted with ethyl ether, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | 3-(2-bromoacetyl)benzonitrile | 776 mg | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-(2-Hydroxyacetyl)benzonitrile | OCC(=O)C=1C=C(C#N)C=CC1 | C9H7NO2
